US06531620B2
23 g (100 mmol) of N-((3-aminopropyl)dimethylsilyl)-2,2-dimethyl-1-aza-2-silacyclopentane were dissolved in 50 ml of THF, and 30 ml of methanol were subsequently added with ice cooling. Distillation gave 28 g of aminopropyl-dimethylmethoxysilane (95% yield).

reactant | N-((3-aminopropyl)dimethylsilyl)-2,2-dimethyl-1-aza-2-silacyclopentane | 100 mmol, 23 g | NCCC[Si](N1[Si](CCC1)(C)C)(C)C | C10H26N2Si2
reactant | methanol | 30 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | aminopropyl-dimethylmethoxysilane | 28 g, 95% yield | NCCC[Si](OC)(C)C | C6H17NOSi
